US05750724
N-(3-{[4-(1 H-Indol-3-yl)-butylamino]-methyl}-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanesulfonamide
3-Indolebutyric acid (1.7 g, 8.2 mmole), 1-hydroxybenzotriazole hydrate (1.3 g, 9.8 mmole) and 1,3-diisopropylcarbodiimide (1.5 ml, 9.8 mmole) were combined in 200 ml of DMF and stirred at room temperature for 2 hours under a nitrogen atmosphere. To this was added dropwise 7-methylsulfonylamino-2,3-dihydro-1,4-benzodioxin-2-methanamine (2.0 g, 8.2 mmole) in 50 ml of DMF and the mixture was further stirred for 48 hours. The solvent was removed and the residue partitioned between dichloromethane and water. The separated dichloromethane layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuum. The residue was chromatographed on a silica gel column using ethyl acetate as the eluant. Product fractions were concentrated and washed with a minimum amount of THF to remove a by-product and give 3.0 g (82%) of the desired product, (7-methylsulfonylamino-2,3-dihydro-benzo[1,4]dioxin-2-ylmethyl)-4-(1H-indol-3-yl)-butanamide, as an oily white solid.

reactant | 3-Indolebutyric acid | 8.2 mmole, 1.7 g | N1C=C(C2=CC=CC=C12)CCCC(=O)O | C12H13NO2
reactant | 1-hydroxybenzotriazole hydrate | 9.8 mmole, 1.3 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1,3-diisopropylcarbodiimide | 9.8 mmole, 1.5 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 7-methylsulfonylamino-2,3-dihydro-1,4-benzodioxin-2-methanamine | 8.2 mmole, 2.0 g | CS(=O)(=O)NC=1C=CC2=C(OC(CO2)CN)C1 | C10H14N2O4S
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-(3-{[4-(1 H-Indol-3-yl)-butylamino]-methyl}-2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanesulfonamide | 3.0 g, 82% | N1C=C(C2=CC=CC=C12)CCCCNCC1OC2=C(OC1)C=CC(=C2)NS(=O)(=O)C | C22H27N3O4S
